US04166128
To a solution of 3.24 g of methyl 2-(2,6-dichloroanilino)-phenylglyoxylate in 50 ml of a 0.1 N acetic acid solution in methanol (hereinafter often referred to as "0.1 N acetic acid/methanol") was added 0.6 g of 5% Pt-carbon, and vigorous stirring was effected at room temperature under a hydrogen pressure of 2 atmospheres for 10 hours. The catalyst was filtered off and the filtrate was concentrated at room temperature under a reduced pressure of 10 mmHg. The crystalline substance thus deposited was recovered by filtration and recrystallized from ethanol to give 3.0 g of methyl 2-(2,6-dichloroanilino)phenylglycolate. m.p. 123°-124.5° C.

reactant | methyl 2-(2,6-dichloroanilino)-phenylglyoxylate | 3.24 g | ClC1=C(NC2=C(C=CC=C2)C(C(=O)OC)=O)C(=CC=C1)Cl | C15H11Cl2NO3
reactant | acetic acid | 0.1 N | C(C)(=O)O | C2H4O2
reactant | acetic acid methanol | 0.1 N | C(C)(=O)O.CO
solvent | methanol | CO | CH4O
product | methyl 2-(2,6-dichloroanilino)phenylglycolate | 3.0 g, Yield: 92% | ClC1=C(NC2=C(C=CC=C2)C(C(=O)OC)O)C(=CC=C1)Cl | C15H13Cl2NO3
